US07642368B2
Synthesis of 4-methylphenyldiphenylsulfonium bromide
In a 4-methylphenyl Grignard reagent of 1.32 L (1.88 mol, 1.42 mol/L, 2.5 equiv.) prepared by a common method from 4-bromotoluene and magnesium as raw materials using tetrahydrofuran (THF) as a solvent was added a solution dissolving diphenyl sulfoxide of 151.71 g (0.75 mol, 1 equiv.) and chlorotrimethylsilane (TMSCl) of 407.25 g (3.75 mol, 5 equiv.) in THF of 0.6 L at −5° C. to room temperature, followed by reacting under stirring for 30 minutes. After termination of the reaction, the resultant reaction mixture was poured into 12% hydrobromic acid of 1.1 L and extracted two times with dichloromethane of 1.8 L. The obtained product was washed with water and then concentrated to dryness and crystallized in acetone of 1.8 L to obtain the product of 203.7 g as a white crystal (yield: 76%). Property data thereof are shown in Table 1.

reactant | 4-bromotoluene | BrC1=CC=C(C=C1)C | C7H7Br
reactant | magnesium | [Mg] | Mg
reactant | diphenyl sulfoxide | C1(=CC=CC=C1)S(=O)C1=CC=CC=C1 | C12H10OS
reactant | chlorotrimethylsilane | Cl[Si](C)(C)C | C3H9ClSi
reactant | hydrobromic acid | Br | BrH
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 4-methylphenyldiphenylsulfonium bromide | yield: 76% | [Br-].CC1=CC=C(C=C1)[S+](C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C19H17S.BrH/c1-16-12-14-19(15-13-16)20(17-8-4-2-5-9-17)18-10-6-3-7-11-18;/h2-15H,1H3;1H/q+1;/p-1
